US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-oxo-2-phenyl-ethyl)-amide
A 20 mL round bottom flask equipped with a stir bar was charge with 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-hydroxy-2-phenyl-ethyl)-amide (100 mg, 0.33 mmol) and acetic acid (1 mL). A solution of CrO3 (36 mg, 0.363 mmoles, 1.1 eq) in acetic acid (500 μl) and water (100 μl) was slowly added to the reaction mixture. The reaction mixture was stirred at ambient temperature for 15 min and diluted with ethyl acetate (30 mL) and saturated NaHCO3 (aq.) (30 mL). The heterogeneous mixture was transferred to a separatory funnel where the aqueous phase was separated and re-extracted with ethyl acetate (2×10 mL). The organic phases were combined and washed with sat NaHCO3 (3×10 mL), H2O (10 mL), brine (10 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (30% to 50% ethyl acetate/hexane for elution) provided the title compounds as white solid (92 mg, 93%).

reactant | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-hydroxy-2-phenyl-ethyl)-amide | 0.33 mmol, 100 mg | OC(CNC(=O)C1C(CCC(C1)C)C(C)C)C1=CC=CC=C1 | C19H29NO2
solvent | acetic acid | 500 μl | C(C)(=O)O | C2H4O2
solvent | water | 100 μl | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-oxo-2-phenyl-ethyl)-amide | 92 mg, 93% | O=C(CNC(=O)C1C(CCC(C1)C)C(C)C)C1=CC=CC=C1 | C19H27NO2
